US07211572B2
Methyl 3-benzyloxy-4-oxo-5-(thiazol-2-yl)-4H-pyran-2-carboxylate (1.47 g) was suspended in ethanol (15 ml)-dioxane (15 ml), and tert-butyl (2-aminoethyl)carbamate (0.816 ml) was added. After stirring at 70° C. for 1.5 hr, the solvent was evaporated and 4N hydrochloric acid/dioxane solution (70 ml) and chloroform (10 ml) were added to the residue. After stirring at room temperature for 2 hr, the reaction mixture was concentration under reduced pressure. Saturated aqueous sodium hydrogen carbonate solution (20 ml) and methanol (50 ml) were added to the residue and the mixture was stirred for 2 hr. The solvent was evaporated and the obtained solid was collected by filtration and washed thoroughly with water to give 9-benzyloxy-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (1.07 g)

reactant | Methyl 3-benzyloxy-4-oxo-5-(thiazol-2-yl)-4H-pyran-2-carboxylate | 1.47 g | C(C1=CC=CC=C1)OC1=C(OC=C(C1=O)C=1SC=CN1)C(=O)OC | C17H13NO5S
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | tert-butyl (2-aminoethyl)carbamate | 0.816 ml | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 9-benzyloxy-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 1.07 g | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(NCC2)=O)C=2SC=CN2)=O | C18H15N3O3S
